# FIT as cubic
v1 2 0 dc 1 ac 1
e1 3 0 2 0 FIT 0,0 1,1 4,2 9,3 16,4 25,5 order=3 below=0
r3 3 0 10k
e2 4 0 2 0 FIT 0,0 1,1 2,4 3,9 4,16 5,25 order=3 above=0
r4 4 0 10k
.list
.print op v(nodes)
.op
.print dc v(nodes) iter(0)
.dc v1 -10 10 .5
.dc v1 1 1000 decade 5
.dc v1 16 68 4.5
.end
