' a test of the delete command
Y1 1 0 0
Y2 2 0 0
Y3 3 0 0
Y4 4 0 0
Y5 5 0 0
V1 1 0 1
R1 1 2 1
R2 2 0 1
R31 2 3 1
R32 3 0 2
L 3 4 5
C1 4 0 5
C2 4 5 5
C3 5 0 2
.option trace
.print op v(nodes)
.list
.op
.delete Q3
.list
.op
.delete M*
.print op v(nodes)
.list
.op
.delete L
.print op v(nodes)
.list
.op
.delete R3*
.print op v(nodes)
.list
.op
.delete L*
.print op v(nodes)
.list
.op
.delete c*
.print op v(nodes)
.list
.op
.delete r2
.print op v(nodes)
.list
.op
.delete r*
.print op v(nodes)
.list
.op
.end
